US03971828
60.5g of 2-bromo-3-phenylpropionic acid was mixed with 100 ml of thionylchloride and the mixture was refluxed for 3 hours and, after the excess thionylchloride had been distilled off, was distilled under reduced pressure to give 46.2g of 2-bromo-3-phenylpropionylchloride. (b.p. 100°- 101°C/4 mmHg)

reactant | 2-bromo-3-phenylpropionic acid | 60.5g | BrC(C(=O)O)CC1=CC=CC=C1 | C9H9BrO2
reactant | thionylchloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-bromo-3-phenylpropionylchloride | 46.2g | BrC(C(=O)Cl)CC1=CC=CC=C1 | C9H8BrClO
